US04851535
In 1.5 ml of ethanol was dissolved 140 mg of anhydrous piperazine, and to the resulting solution was added 150 mg of ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate in portions, and the resulting mixture was subjected to reaction at room temperature for 30 minutes. Subsequently, the reaction mixture was added to a mixture of 5 ml of chloroform and 5 ml of water, and the organic layer was separated, washed successively with 3 ml of water and 3 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of n-hexane, after which crystals were collected by filtration to obtain 70 mg (yield 41.2%) of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(1-piperazinyl)nicotinoyl]acetate.

reactant | piperazine | 140 mg | N1CCNCC1 | C4H10N2
reactant | ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 150 mg | ClC1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C16H12ClF3N2O3
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | water | 5 ml | O | H2O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | n-hexane | 2 ml | CCCCCC | C6H14
product | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(1-piperazinyl)nicotinoyl]acetate | 70 mg, yield 41.2% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)N1CCNCC1)F | C20H21F3N4O3
